US05281747
A solution of 1.0 g (5.1 mmol) of ethyl P-(2-cyanoethyl)-P-difluoromethyl-phosphinate in 10 ml of dry ethanol is treated with 4 g of liquid ammonia and 0.3 g of Raney nickel. The reaction mixture is hydrogenated at 50° for 9 hours at 100 mbar. The reaction mixture is cooled, filtrated and evaporated to dryness. Chromatographic purification yields ethyl P-(3-aminopropyl)-P-difluoromethyl-phosphinate as a colourless oil of Rf =0.22 (dichloromethane/methanol/aqueous ammonia; 80:19:1).

reactant | ethyl P-(2-cyanoethyl)-P-difluoromethyl-phosphinate | 5.1 mmol, 1.0 g | C(#N)CCP(OCC)(=O)C(F)F | C6H10F2NO2P
reactant | ammonia | N | H3N
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Raney nickel | 0.3 g | [Ni] | Ni
product | ethyl P-(3-aminopropyl)-P-difluoromethyl-phosphinate | NCCCP(OCC)(=O)C(F)F | C6H14F2NO2P
